US06809108B1
(2R)-N-{(1-cyclopentylmethyl-4-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-tris(4-fluorophenyl)propanoyl}pyrrolidin-2-yl)carbonylpyrrolidine-2-carboxamide
To a solution of 19 mg of (2R)-1-((2S,4R)-4-hydroxy-1-{3,3,3-tris(4-fluorophenyl)propanoyl}pyrrolidin-2-yl)carbonyl-N-(4-piperidylmethyl)pyrrolidine-2-carboxamide in 1.5 ml of acetonitrile, 14 mg of methanesulfonic acid-cyclopentylmethyl, 13 mg of potassium carbonate and 5 mg of potassium iodide were added at room temperature, followed by 24 hours' stirring at 80° C. under heating. The reaction liquid was diluted with chloroform, washed successively with water and 1N aqueous sodium hydroxide solution, and drired over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resultant residue was purified by preparative thin-layer chromatography [Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol/28% aqueous ammonia=100/10/1) to provide 16 mg of the title compound as a white solid.

reactant | (2R)-1-((2S,4R)-4-hydroxy-1-{3,3,3-tris(4-fluorophenyl)propanoyl}pyrrolidin-2-yl)carbonyl-N-(4-piperidylmethyl)pyrrolidine-2-carboxamide | 19 mg | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)C(=O)N1[C@H](CCC1)C(=O)NCC1CCNCC1 | C37H41F3N4O4
reactant | potassium carbonate | 13 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5 mg | [I-].[K+]
reactant | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (2R)-N-{(1-cyclopentylmethyl-4-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-tris(4-fluorophenyl)propanoyl}pyrrolidin-2-yl)carbonylpyrrolidine-2-carboxamide | 16 mg | C1(CCCC1)CN1CCC(CC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C43H51F3N4O4
